US06706716B2
(2,4,5-Trifluorophenyl)piperazine
A mixture of 2,4,5-trifluoroaniline (2.94 g, 20 mmol) and bis(2-chloroethyl)amine hydrochloride (3.56 g, 20 mmol) in butanol (10 mL) was heated at reflux for 24 hours. The mixture was cooled to room temperature, sodium carbonate (2.33 g, 22 mmol) was added, and the mixture was heated again at reflux. After 2 days, the mixture was cooled to room temperature, hexane (15 mL) and 3 N NaOH (25 mL) were added, and the resulting layers were separated. The aqueous layer was extracted with chloroform (3×25 mL) and the combined organic fractions were flashed over a column of silica gel. The silica gel was further eluted with a gradient of chloroform to chloroform/methanol (4:1). The solvent was removed from the combined fractions with Rf=0.20 [silica gel, chloroform/methanol (4:1)], giving the title compound as a yellow oil (1.028 g, 4.76 mmol, 24%). ESI-MS m/z 217 (MH+).

reactant | 2,4,5-trifluoroaniline | 20 mmol, 2.94 g | FC1=C(N)C=C(C(=C1)F)F | C6H4F3N
reactant | bis(2-chloroethyl)amine hydrochloride | 20 mmol, 3.56 g | Cl.ClCCNCCCl
reactant | sodium carbonate | 22 mmol, 2.33 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 3 N, 25 mL | [OH-].[Na+]
solvent | butanol | 10 mL | C(CCC)O | C4H10O
solvent | hexane | 15 mL | CCCCCC | C6H14
product | (2,4,5-Trifluorophenyl)piperazine | 4.76 mmol, 1.028 g, 24% | FC1=C(C=C(C(=C1)F)F)N1CCNCC1 | C10H11F3N2
